Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
neck mass, fevers/chills
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ male with HIV on Hart (recent CD4 286 and
___, recent admission for tertiary syphilis status post 
2
weeks of IV penicillin, presenting with hyper acute onset
worsening neck mass with subjective fevers/chills.  Patient
reports it began as a small pustule, which he thought was an
ingrown hair, and he attempted to extract it with a tweezer, but
had significant pain at the surface of the skin and subsequently
stopped.  The pain and symptoms have been worsening over the 
past
2 days.  He otherwise denies throat pain, dental abscesses,
dysphonia, dysphasia, dyspnea.

In the ED, initial VS were 99.4 112 134/75 20 100% RA.
Labs notable for WBC of 12.7, H/H of 15.8/46.7, platelets 202. 
BMP WNL.  UA with moderate blood, otherwise negative.
CT neck significant for an 8 mm left odontogenic abscess, likely
originating from the left mandibular premolar tooth, with marked
stranding and edema of the left lateral neck soft tissues,
extending from the level of the parotid gland to the lower neck. 

Is also significant for mild edema of the left parotid gland. 
There is no evidence of vascular compromise or extension to the
danger space.
He received IV fluids, IV vancomycin, IV Zosyn, and IV 
ketorolac.
He was evaluated by ENT who thought this represented cellulitis,
without drainable collection..  They recommended IV antibiotics
and an OMFS consult.
 
Upon arrival to the floor, the patient tells the story as
follows.  He reports he was in his normal state of health until
approximately 48 hours ago, with when he noticed some swelling 
on
his left-sided neck, which he thought was due to an ingrown 
hair.
Swelling got progressively worse despite his application of
cortisone cream and hot compresses.  He was also experiencing
subjective fevers and chills.  Subsequently presented to the
emergency room as above.  He otherwise denies difficulty chewing
chewing, difficulty swallowing, dyspnea, shortness of breath,
wheezing, chest pain, abdominal pain, nausea, vomiting, new
bruises or rash.  He reports no recent dental work.  He reports
no dental implants.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- HIV
- Avascular necrosis s/p right total hip arthroplasty
- Cardiomyopathy
- HTN
- Tertiary syphillis
 
Social History:
___
Family History:
+ colon cancer GF; + GF died of MI at age ___
 
Physical Exam:
Admission exam:
===============
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist
Neck: Significant swelling of the left neck with some 
fluctuance,
tenderness,  
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: +Erythematous changes of the left neck, receding from 
prior
markings
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
.
.
Discharge exam:
*Left AMA*
Gen: NAD
Neck: left neck swelling substantially improved compared with 
admission, but still with ~12 cm (horizontally) by 8 cm 
(vertically) area of induration, erythema with developing 
fluctuance on exam; was non-tender to moderate palpation. No 
bruits appreciated over left neck.  Right neck wnl.
Cards: RR, no m/r/g
Chest: CTAB
Abd: S, NT, BS+
Neuro: awake, alert, conversant, clear speech, stable gait
 
Pertinent Results:
Admit labs:
===========

___ 09:26PM BLOOD WBC-12.7* RBC-5.16 Hgb-15.8 Hct-46.7 
MCV-91 MCH-30.6 MCHC-33.8 RDW-14.2 RDWSD-46.8* Plt ___
___ 09:26PM BLOOD Neuts-53.4 ___ Monos-7.1 Eos-2.0 
Baso-0.2 Im ___ AbsNeut-6.78* AbsLymp-4.69* AbsMono-0.90* 
AbsEos-0.25 AbsBaso-0.03
___ 09:26PM BLOOD ___ PTT-28.0 ___
___ 09:26PM BLOOD Glucose-101* UreaN-18 Creat-1.2 Na-138 
K-4.2 Cl-100 HCO3-25 AnGap-13
___ 09:15AM BLOOD ALT-14 AST-16 LD(LDH)-183 AlkPhos-62 
TotBili-0.5
___ 09:15AM BLOOD Calcium-8.8 Phos-2.6* Mg-1.7
___ 09:53PM BLOOD Lactate-2.0
.
.
Discharge labs:
===============

___ 06:35AM BLOOD WBC-8.8 RBC-4.54* Hgb-13.8 Hct-40.4 
MCV-89 MCH-30.4 MCHC-34.2 RDW-13.4 RDWSD-43.9 Plt ___
___ 06:20AM BLOOD Glucose-85 UreaN-17 Creat-1.0 Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-11
.
.
Micro:
======
-___ UCx was no growth (final)
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
-___ MRSA screen: POSITIVE for MRSA
.
.
Imaging:
========
CT NECK WITH CONTRAST ___
IMPRESSION: 
1.  Dental amalgam streak artifact limits study. 
2. 8 mm left pre mandibular odontogenic abscess versus phlegmon,
with suggested adjacent dental cavity, marked stranding and 
edema
of the left lateral neck soft tissues extending from the level 
of
the parotid gland to lower neck.  Please note that superimposed
cellulitis is not excluded on the basis of the examination. 
3. Enlarged level IIa lymph node with additional scattered
subcentimeter nonspecific lymph nodes, which may be reactive. 
4. Question minimal asymmetric prominence of left parotid gland
relative to right, with edema adjacent to the left parotid 
gland.
While finding may be secondary to patient positioning or volume
averaging artifact, parotitis is not excluded on the basis of
this examination. 
5. Mild edema the left parotid gland with marked surrounding fat
stranding may represent a separate acute parotitis versus
reactive inflammation secondary to the odontogenic abscess with
grossly patent cervical vasculature. 
6. Complete opacification of right sphenoid sinus with findings
concerning for chronic and/or fungal sinusitis as described. 
7. Limited imaging of the teeth demonstrate multiple periapical
lucencies and dental cavities. 
 
ENT eval on ___
Fiberoptic laryngoscopy was performed and demonstrated widely
patent airway with normal appearing epiglottis. Patient 
tolerated
the procedure well, no bleeding, pain or dyspnea.

Prior cardiac studies:
___ - ECHO with mild LVH, EF 35-40%. Mild MR. 
___ - ETT/pharm MIBI with ex duration of 10:00 + Lexi. No
ischemia. Moderately reduced LVEF. Optimize medical rx (started
BB + ACEI)
___ - ECHO with nml LVEF, borderline LVH, trace aortic
insufficiency
.
.

 
Brief Hospital Course:
# Left neck cellulitis
# Left neck superficial abscess
# Left pre-mandibular dental abscess/phlegmon
# Possible left parotitis
Patient p/w jaw pain, leukocytosis, tachycardia, found to have a 
"8 mm left pre mandibular odontogenic abscess versus phlegmon" 
on ___ CT of neck, with overlying cellulitis.  No evidence of 
airway compromise or extension to the danger space.  
-He was evaluated by ENT without obvious drainable collection 
and fiberoptic laryngoscopy demonstrated patent airway.  
- OMFS evaluated him and reviewed his CT imaging and felt there 
was no drainable abscess, so advised against surgical 
intervention in the early stages of his hospital course.
- Overall: exam and symptoms improving gradually on empiric abx, 
leukocytosis resolved w/ empiric abx and he was afebrile for 
several days prior to discharge
- treated predominantly w/ Vanc/Unasyn (___)
- consulted ID re: timing of transition from IV to PO abx and 
which abx to choose
- ID recommended eventual transition to PO augmentin + doxy
- On day of discharge, increased fluctuance noted on exam of his 
neck mass, so I had counseled the patient that I would return to 
perform a bedside ultrasound to asses if there was a fluid 
pocket that would benefit from being drained. He was agreeable. 
However, shortly thereafter, i was notified by the ___ RN 
that the patient was unwilling to stay in the hospital any 
longer, under any circumstances.  As a result, was unable to 
assess for the development of a drainable abscess in his neck 
prior to discharge and he was transitioned from IV to PO abx 
prior to the re-evaluation and recommendations of the ID team.
- blood cultures remain NGTD
- MRSA screen positive, so continued him on treatment for MRSA 
coverage on discharge (doxy, per ID recs)
- discharged on augmentin + doxy to complete total course of 14 
days
- advised patient to schedule appointment to be seen by his 
primary ID physician, ___, in 1 week to have his neck 
re-assessed and determine if abx course needs to be extended 
beyond the prescribed 14-day course.

# HIV: 
***Family does not know his HIV status***
- Primary ID physician is ___
- ___ 1 ___ daily: patient does not have this with 
him, unable to have family bring it in because he does not want 
to reveal his HIV status to them.
- Used Descovoy + Dalutegravir per Dr. ___ 
___
- ___ to resume his usual home ART medications on discharge

# Cardiomyopathy: Patient was found to have reduced ejection 
fraction in the past and is followed by cardiology (Dr. 
___ ___ ___.  Recent TTE on ___, 
however, showed normalized LVEF (55-60%) and normal diastolic 
function with normal ___ 
- Held home lisinopril i/s/o acute illness, resumed on discharge 
given that patient was clinically improved
- Continued Metoprolol 50 mg XL daily

# HSV suppression: 
-continued home on acyclovir.
.
.
.
Time in care:
[x] Greater than 30 minutes in discharge-related activities 
today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. ___ (emtricitab-rilpivir-tenofo ala) 200-25-25 mg oral 
DAILY 
4. Dolutegravir 50 mg PO DAILY 
5. Acyclovir 400 mg PO DAILY outbreaks 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 11 Days 

last dose will be on ___ 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice a day Disp #*22 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H Duration: 11 Days 
last dose will be on ___ 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*22 Capsule Refills:*0 
3.  Acyclovir 400 mg PO DAILY outbreaks  
4.  Dolutegravir 50 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  ___ (emtricitab-rilpivir-tenofo ala) 200-25-25 mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Left neck cellulitis and skin abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
*Left AMA*
 
Discharge Instructions:
You were admitted with an infection in your left neck. You were 
treated with IV antibiotics and improved. We transitioned you to 
oral antibiotics on the day of discharge. We had planned to 
obtain an ultrasound of your neck infection on the day of 
discharge to assess for an abscess that could be drained (to 
help expedite the resolution of the infection), but you did not 
want to stay and left before this could be done.

You are going to be taking two new medications, both are 
antibiotics, to treat the neck infection.  Please take these as 
prescribed, until ___.  Please plan to follow up with your 
primary infectious disease doctor, ___, in 1 week, to 
assess your neck infection and decide if antibiotics should be 
continued.  Please call Dr. ___ office to make this 
appointment at a time & date that are most convenient for you.
 
Followup Instructions:
___